US05047554
3-Methylthio-2-thiophenecarboxylic acid (prepared according to Carpenter, A. J., et al., Tetrahedron Letters 26:1777 (1985)) (2.61 g, 15.0 mmoles) was reacted with 10 ml of thionyl chloride to give 2.83 g of crude 3-methylthio-2-thiophenecarbonyl chloride as a light yellow solid. The acid chloride was then coupled to 2.57 g (12.2 mmoles) 5-chloro-2-oxindole-1-carboxamide in the presence of 4.47 g (36.6 mmoles) 4-(N,N-dimethylamino)pyridine as described in Example 32 to give 3.73 g of crude product as an orange solid. The product was partially purified by recrystallization from 2-butanone to give 1.44 g of greenish-yellow solid. Pure title compound was obtained by a second recrystallization from ethyl acetate to give 0.92 g (2.51 mmoles, 21% yield) as a yellow solid. The pure compound initially melts at 178° C. then resolidifies and melts again above 275° C. (dec.).

reactant | 3-Methylthio-2-thiophenecarboxylic acid | CSC1=C(SC=C1)C(=O)O | C6H6O2S2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-methylthio-2-thiophenecarbonyl chloride | 2.83 g | CSC1=C(SC=C1)C(=O)Cl | C6H5ClOS2
